US06166006
In ethyl acetate (7.0 ml) was dissolved tert-butyl 1-methyl-7-(4-methylphenyl)-2,3-dihydro-1-benzoazepine-4-carboxylate (490 mg), and to the mixture was added 4N hydrochloric acid (ethyl acetate) (7.0 ml). The mixture was stirred at room temperature for 20 hours. The solvent was evaporated under reduced pressure, and the residue was washed with hexane (10 ml×3) to give 1-methyl-7-(4-methylphenyl)-2,3-dihydro-1-benzoazepine-4-carboxylic acid hydrochloride (443 mg, 96%).

reactant | tert-butyl 1-methyl-7-(4-methylphenyl)-2,3-dihydro-1-benzoazepine-4-carboxylate | 490 mg | CN1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)C)C(=O)OC(C)(C)C | C23H27NO2
reactant | hydrochloric acid (ethyl acetate) | 4N, 7.0 ml | C(C)CC(=O)O.Cl
solvent | ethyl acetate | 7.0 ml | C(C)(=O)OCC | C4H8O2
product | 1-methyl-7-(4-methylphenyl)-2,3-dihydro-1-benzoazepine-4-carboxylic acid hydrochloride | 443 mg, 96% | Cl.CN1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)C)C(=O)O | InChI=1S/C19H19NO2.ClH/c1-13-3-5-14(6-4-13)15-7-8-18-17(11-15)12-16(19(21)22)9-10-20(18)2;/h3-8,11-12H,9-10H2,1-2H3,(H,21,22);1H
